US06852731B2
N-(4-chlorobenzyl)-2-{[(2-{4-[(dimethylamino)methyl]phenyl}-2-hydroxyethyl)(methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (100 mg, 0.25 mmol), 1-{4-[(dimethylamino)methyl]phenyl}-2-(methylamino)ethanol (Preparation 50) (89 mg, 0.43 mmol) and diisopropylethylamine (67 μL, 0.38 mmol) in dry DMF (5 mL) was heated to 60° C., becoming a solution. The reaction was stirred for 7 hours at that temperature. After cooling to room temperature, the solution was diluted with water (7 mL). The resulting milky mixture was concentrated to dryness. The residue was purified with a silica gel chromatotron plate to yield the title compound (36 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.25 mmol, 100 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 1-{4-[(dimethylamino)methyl]phenyl}-2-(methylamino)ethanol | 0.43 mmol, 89 mg | CN(C)CC1=CC=C(C=C1)C(CNC)O | C12H20N2O
reactant | diisopropylethylamine | 0.38 mmol, 67 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 7 mL | O | H2O
product | N-(4-chlorobenzyl)-2-{[(2-{4-[(dimethylamino)methyl]phenyl}-2-hydroxyethyl)(methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 36 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(O)C3=CC=C(C=C3)CN(C)C)C)=O)C=C1 | C30H35ClN4O3S
